US05157027
A. 1-Bromo-4-(2-methyl-1-propenyl)benzene
To a stirred slurry of 17.29 g (40.0 mmol) of isopropyltriphenylphosphonium iodide and 500 mg (2 mmol) of 18-crown-6 in 100 mL of THF under nitrogen at 5° C. was added 4.50 g (40.0 mmol) of potassium t-butoxide over 5 minutes. The resulting deep red-orange slurry was stirred 10 minutes and then a solution of 6.50 g (35.0 mmol) of p-bromobenzaldehyde in 40 mL of THF was added at a rate to keep the temperature below +10° C. The resulting bright yellow slurry was stirred for 20 minutes and then poured into 300 mL of hexanes. The solids were filtered off and the filtrate evaporated. This residue was purified by flash chromatography (5×15 cm column) and eluted with hexanes to provide 5.66 g (77%) of title compound as a colorless oil.

reactant | isopropyltriphenylphosphonium iodide | 40.0 mmol, 17.29 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 40.0 mmol, 4.50 g | CC(C)([O-])C.[K+]
reactant | p-bromobenzaldehyde | 35.0 mmol, 6.50 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | 18-crown-6 | 2 mmol, 500 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 1-Bromo-4-(2-methyl-1-propenyl)benzene | 5.66 g, 77% | BrC1=CC=C(C=C1)C=C(C)C | C10H11Br
